US04071530
2. 4-Hydroxymethyl-1-isopropyl-pyrrolidone (III)
92.5 g (0.5 mol) of 4-carbomethoxy-1-isopropyl-pyrrolidone in 1.2 l of ethanol were hydrogenated in the presence of about 50 g of Raney-Nickel for 48 hours at 160° - 180° C under a hydrogen pressure of 200 atmospheres. Then it was determined with the aid of thin layer chromatography (CHCl3 /C2H5OH= 95:5) if the reduction was finished. Otherwise 20 g of Raney-Nickel were added again and hydrogenated for another 24 hours. In most of the tests hydrogenation had finished after this time.

reactant | 4-carbomethoxy-1-isopropyl-pyrrolidone | 0.5 mol, 92.5 g | C(=O)(OC)C1CC(N(C1)C(C)C)=O | C9H15NO3
reactant | CHCl3 C2H5OH | C(Cl)(Cl)Cl.C(C)O
solvent | ethanol | 1.2 l | C(C)O | C2H6O
catalyst | Raney-Nickel | about 50 g | [Ni] | Ni
catalyst | Raney-Nickel | 20 g | [Ni] | Ni
product | 4-Hydroxymethyl-1-isopropyl-pyrrolidone | OCC1CC(N(C1)C(C)C)=O | C8H15NO2
